US05382600
6-Chloro-4-phenyl-3,4-dihydrocoumarin (435 g, 1.68 mol. Preparation: T. Manimaran & V. T. Ramakrishnan, Ind. J. Chem. B 18 (1979) 328) is added to a hot solution of sodium hydroxide (140 g, 3.5 mol) in water (500 ml). The solution is chilled to 25° C. and dimethyl sulphate (442 g, 3.5 mol) is added dropwise during 1 h with stirring and cooling at 25°-35° C. The mixture is stirred for an additional 2 h whereupon a solution of 100 g of sodium hydroxide in 500 ml of water is added and the mixture is stirred until a clear solution is obtained. An excess of concentrated hydrochloric acid is added to precipitate the methoxy acid, which separates as an oil which slowly crystallizes. It is filtered off, washed with water and dried. Crystallization from 2-propanol gives colourless crystals of 3-(5-chloro-2-methoxyphenyl)-3-phenyl propionic acid, m.p. 144° C. Yield 455 g.

reactant | 6-Chloro-4-phenyl-3,4-dihydrocoumarin | 1.68 mol, 435 g | ClC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C15H11ClO2
reactant | sodium hydroxide | 3.5 mol, 140 g | [OH-].[Na+]
reactant | dimethyl sulphate | 3.5 mol, 442 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 100 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 3-(5-chloro-2-methoxyphenyl)-3-phenyl propionic acid | ClC=1C=CC(=C(C1)C(CC(=O)O)C1=CC=CC=C1)OC | C16H15ClO3
